US07576215B2
ETHYL[4-({3-[3-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-YL]PHENOXY}METHYL)PHENYL]ACETATE
To a solution of 3-[3-phenyl-8-(trifluoromethyl)quinolin-4-yl]phenol (0.178 g, 0.487 mmol), and potassium carbonate (0.134 g, 0.974 mmol), in DMF at 120° C. is added 4-bromomethylphenylacetic acid ethyl ester (0.334 g, 1.46 mmol), drop wise over 2 h. After an additional 2 h, the cooled reaction is poured into 2N aq HCl and extracted with ethyl acetate. The combined extracts are washed with sat aq NaHCO3, water, brine, and dried with magnesium sulfate. The extracts are concentrated and the residue is chromatographed with 1:9 ethyl acetate:hexanes to afford the title compound as a syrup (0.051 g, 37%). MS m/z 542; HRMS: calcd for C33H26NF3O3+H, 542.19430; found (ESI, [M+H]+), 542.194.

reactant | 3-[3-phenyl-8-(trifluoromethyl)quinolin-4-yl]phenol | 0.487 mmol, 0.178 g | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C22H14F3NO
reactant | potassium carbonate | 0.974 mmol, 0.134 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethylphenylacetic acid ethyl ester | 1.46 mmol, 0.334 g | C(C)OC(CC1=CC=C(C=C1)CBr)=O | C11H13BrO2
reactant | HCl | 2N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | ETHYL[4-({3-[3-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-YL]PHENOXY}METHYL)PHENYL]ACETATE | 0.051 g, 37% | C(C)OC(CC1=CC=C(C=C1)COC1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=C1C1=CC=CC=C1)C(F)(F)F)=O | C33H26F3NO3
